US04963566
1-Methyl-8-hydroxymethyl-1,2,3,4-tetrahydroquinoline (0.89 g) was dissolved in dichloromethane (30 ml), and thionyl chloride (1.09 ml) was added thereto, and the mixture was stirred for 2 hours at 45° C. After distilling off the solvent, n-hexane was added to the residue, and the solvent was distilled off under reduced pressure to give 1-methyl-8-chloromethyl-1,2,3,4-tetrahydroquinoline (1.1 g).

reactant | 1-Methyl-8-hydroxymethyl-1,2,3,4-tetrahydroquinoline | 0.89 g | CN1CCCC2=CC=CC(=C12)CO | C11H15NO
reactant | thionyl chloride | 1.09 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-methyl-8-chloromethyl-1,2,3,4-tetrahydroquinoline | 1.1 g | CN1CCCC2=CC=CC(=C12)CCl | C11H14ClN
